US07273865B2
3-Methoxy-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-propionamide
From 3-methoxypropionic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 353 (M+H+, 100).

reactant | 3-methoxypropionic acid | COCCC(=O)O | C4H8O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
solvent | THF | C1CCOC1 | C4H8O
product | 3-Methoxy-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-propionamide | COCCC(=O)NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1 | C15H20N4O4S
